*-- pdngen: spice deck generated for chip 'chiplet2' PDN
*-- die chiplet2:  W/H: 0.002/0.003


.subckt chiplet2
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
*-- p/g port #: 12/12
+nd_1_0_3000_666

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_666 nd_1_0_3000_666 0.016324
rd_1_2_0_0_1 nd_1_0_3000_666 nd_1_0_5000_666 0.016324
rd_1_2_0_0_2 nd_1_0_5000_666 nd_1_0_7000_666 0.016324
rd_1_2_0_0_3 nd_1_0_7000_666 nd_1_0_9000_666 0.016324
rd_1_2_0_1_0 nd_1_0_1000_2000 nd_1_0_3000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_2000 nd_1_0_5000_2000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_2000 nd_1_0_7000_2000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_2000 nd_1_0_9000_2000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_3333 nd_1_0_3000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_3000_3333 nd_1_0_5000_3333 0.016324
rd_1_2_0_2_2 nd_1_0_5000_3333 nd_1_0_7000_3333 0.016324
rd_1_2_0_2_3 nd_1_0_7000_3333 nd_1_0_9000_3333 0.016324
rd_1_2_0_3_0 nd_1_0_1000_4666 nd_1_0_3000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_3000_4666 nd_1_0_5000_4666 0.016324
rd_1_2_0_3_2 nd_1_0_5000_4666 nd_1_0_7000_4666 0.016324
rd_1_2_0_3_3 nd_1_0_7000_4666 nd_1_0_9000_4666 0.016324
rd_1_2_0_4_0 nd_1_0_1000_6000 nd_1_0_3000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_6000 nd_1_0_5000_6000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_6000 nd_1_0_7000_6000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_6000 nd_1_0_9000_6000 0.016324
rd_1_2_0_5_0 nd_1_0_1000_7333 nd_1_0_3000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_3000_7333 nd_1_0_5000_7333 0.016324
rd_1_2_0_5_2 nd_1_0_5000_7333 nd_1_0_7000_7333 0.016324
rd_1_2_0_5_3 nd_1_0_7000_7333 nd_1_0_9000_7333 0.016324
rd_1_2_0_6_0 nd_1_0_1000_8666 nd_1_0_3000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_3000_8666 nd_1_0_5000_8666 0.016324
rd_1_2_0_6_2 nd_1_0_5000_8666 nd_1_0_7000_8666 0.016324
rd_1_2_0_6_3 nd_1_0_7000_8666 nd_1_0_9000_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_666 nd_2_0_1000_2000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_2000 nd_2_0_1000_3333 0.016324
rd_2_1_0_0_2 nd_2_0_1000_3333 nd_2_0_1000_4666 0.016324
rd_2_1_0_0_3 nd_2_0_1000_4666 nd_2_0_1000_6000 0.016324
rd_2_1_0_0_4 nd_2_0_1000_6000 nd_2_0_1000_7333 0.016324
rd_2_1_0_0_5 nd_2_0_1000_7333 nd_2_0_1000_8666 0.016324
rd_2_1_0_1_0 nd_2_0_3000_666 nd_2_0_3000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_2000 nd_2_0_3000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_3000_3333 nd_2_0_3000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_3000_4666 nd_2_0_3000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_3000_6000 nd_2_0_3000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_3000_7333 nd_2_0_3000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_5000_666 nd_2_0_5000_2000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_2000 nd_2_0_5000_3333 0.016324
rd_2_1_0_2_2 nd_2_0_5000_3333 nd_2_0_5000_4666 0.016324
rd_2_1_0_2_3 nd_2_0_5000_4666 nd_2_0_5000_6000 0.016324
rd_2_1_0_2_4 nd_2_0_5000_6000 nd_2_0_5000_7333 0.016324
rd_2_1_0_2_5 nd_2_0_5000_7333 nd_2_0_5000_8666 0.016324
rd_2_1_0_3_0 nd_2_0_7000_666 nd_2_0_7000_2000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_2000 nd_2_0_7000_3333 0.016324
rd_2_1_0_3_2 nd_2_0_7000_3333 nd_2_0_7000_4666 0.016324
rd_2_1_0_3_3 nd_2_0_7000_4666 nd_2_0_7000_6000 0.016324
rd_2_1_0_3_4 nd_2_0_7000_6000 nd_2_0_7000_7333 0.016324
rd_2_1_0_3_5 nd_2_0_7000_7333 nd_2_0_7000_8666 0.016324
rd_2_1_0_4_0 nd_2_0_9000_666 nd_2_0_9000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_2000 nd_2_0_9000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_9000_3333 nd_2_0_9000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_9000_4666 nd_2_0_9000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_9000_6000 nd_2_0_9000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_9000_7333 nd_2_0_9000_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_666 nd_2_0_1000_666 0.005
rvd_1_0_0_1 nd_1_0_3000_666 nd_2_0_3000_666 0.005
rvd_1_0_0_2 nd_1_0_5000_666 nd_2_0_5000_666 0.005
rvd_1_0_0_3 nd_1_0_7000_666 nd_2_0_7000_666 0.005
rvd_1_0_0_4 nd_1_0_9000_666 nd_2_0_9000_666 0.005
rvd_1_0_1_0 nd_1_0_1000_2000 nd_2_0_1000_2000 0.005
rvd_1_0_1_1 nd_1_0_3000_2000 nd_2_0_3000_2000 0.005
rvd_1_0_1_2 nd_1_0_5000_2000 nd_2_0_5000_2000 0.005
rvd_1_0_1_3 nd_1_0_7000_2000 nd_2_0_7000_2000 0.005
rvd_1_0_1_4 nd_1_0_9000_2000 nd_2_0_9000_2000 0.005
rvd_1_0_2_0 nd_1_0_1000_3333 nd_2_0_1000_3333 0.005
rvd_1_0_2_1 nd_1_0_3000_3333 nd_2_0_3000_3333 0.005
rvd_1_0_2_2 nd_1_0_5000_3333 nd_2_0_5000_3333 0.005
rvd_1_0_2_3 nd_1_0_7000_3333 nd_2_0_7000_3333 0.005
rvd_1_0_2_4 nd_1_0_9000_3333 nd_2_0_9000_3333 0.005
rvd_1_0_3_0 nd_1_0_1000_4666 nd_2_0_1000_4666 0.005
rvd_1_0_3_1 nd_1_0_3000_4666 nd_2_0_3000_4666 0.005
rvd_1_0_3_2 nd_1_0_5000_4666 nd_2_0_5000_4666 0.005
rvd_1_0_3_3 nd_1_0_7000_4666 nd_2_0_7000_4666 0.005
rvd_1_0_3_4 nd_1_0_9000_4666 nd_2_0_9000_4666 0.005
rvd_1_0_4_0 nd_1_0_1000_6000 nd_2_0_1000_6000 0.005
rvd_1_0_4_1 nd_1_0_3000_6000 nd_2_0_3000_6000 0.005
rvd_1_0_4_2 nd_1_0_5000_6000 nd_2_0_5000_6000 0.005
rvd_1_0_4_3 nd_1_0_7000_6000 nd_2_0_7000_6000 0.005
rvd_1_0_4_4 nd_1_0_9000_6000 nd_2_0_9000_6000 0.005
rvd_1_0_5_0 nd_1_0_1000_7333 nd_2_0_1000_7333 0.005
rvd_1_0_5_1 nd_1_0_3000_7333 nd_2_0_3000_7333 0.005
rvd_1_0_5_2 nd_1_0_5000_7333 nd_2_0_5000_7333 0.005
rvd_1_0_5_3 nd_1_0_7000_7333 nd_2_0_7000_7333 0.005
rvd_1_0_5_4 nd_1_0_9000_7333 nd_2_0_9000_7333 0.005
rvd_1_0_6_0 nd_1_0_1000_8666 nd_2_0_1000_8666 0.005
rvd_1_0_6_1 nd_1_0_3000_8666 nd_2_0_3000_8666 0.005
rvd_1_0_6_2 nd_1_0_5000_8666 nd_2_0_5000_8666 0.005
rvd_1_0_6_3 nd_1_0_7000_8666 nd_2_0_7000_8666 0.005
rvd_1_0_6_4 nd_1_0_9000_8666 nd_2_0_9000_8666 0.005
*-- via layer 1-2: net: 0 VSS net
id_0_0_0_0 nd_1_0_1000_666 0 pwl(0 0.0 4.884e-01ns 0.0  5.384e-01ns 3.9e-02  9.081e-01ns 3.9e-02  9.581e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_1000_666 nd_1_0_1000_666_ci 5.4293
cd_0_0_0_0 nd_1_0_1000_666_ci 0 3.07659e-11
id_0_0_0_1 nd_1_0_3000_666 0 pwl(0 0.0 3.681e-01ns 0.0  4.181e-01ns 7.3e-02  5.585e-01ns 7.3e-02  6.085e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_3000_666 nd_1_0_3000_666_ci 6.45865
cd_0_0_0_1 nd_1_0_3000_666_ci 0 2.60418e-11
id_0_0_0_2 nd_1_0_5000_666 0 pwl(0 0.0 3.748e-01ns 0.0  4.248e-01ns 2.5e-02  8.315e-01ns 2.5e-02  8.815e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_5000_666 nd_1_0_5000_666_ci 7.92297
cd_0_0_0_2 nd_1_0_5000_666_ci 0 2.14714e-11
id_0_0_0_3 nd_1_0_7000_666 0 pwl(0 0.0 5.058e-01ns 0.0  5.558e-01ns 3.7e-02  9.194e-01ns 3.7e-02  9.694e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_7000_666 nd_1_0_7000_666_ci 5.86023
cd_0_0_0_3 nd_1_0_7000_666_ci 0 3.40008e-11
id_0_0_0_4 nd_1_0_9000_666 0 pwl(0 0.0 6.443e-01ns 0.0  6.943e-01ns 1.8e-01  7.144e-01ns 1.8e-01  7.644e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_9000_666 nd_1_0_9000_666_ci 7.01635
cd_0_0_0_4 nd_1_0_9000_666_ci 0 1.85458e-11
id_0_0_0_5 nd_1_0_1000_2000 0 pwl(0 0.0 3.304e-01ns 0.0  3.804e-01ns 2.7e-02  7.133e-01ns 2.7e-02  7.633e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_1000_2000 nd_1_0_1000_2000_ci 8.79182
cd_0_0_0_5 nd_1_0_1000_2000_ci 0 1.82482e-11
id_0_0_0_6 nd_1_0_3000_2000 0 pwl(0 0.0 7.838e-01ns 0.0  8.338e-01ns 9.8e-02  8.612e-01ns 9.8e-02  9.112e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_3000_2000 nd_1_0_3000_2000_ci 11.8492
cd_0_0_0_6 nd_1_0_3000_2000_ci 0 5.20918e-12
id_0_0_0_7 nd_1_0_5000_2000 0 pwl(0 0.0 4.716e-01ns 0.0  5.216e-01ns 3.1e-02  8.403e-01ns 3.1e-02  8.903e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_5000_2000 nd_1_0_5000_2000_ci 7.81808
cd_0_0_0_7 nd_1_0_5000_2000_ci 0 1.17535e-11
id_0_0_0_8 nd_1_0_7000_2000 0 pwl(0 0.0 1.601e-01ns 0.0  2.101e-01ns 1.3e-02  8.707e-01ns 1.3e-02  9.207e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_7000_2000 nd_1_0_7000_2000_ci 9.96999
cd_0_0_0_8 nd_1_0_7000_2000_ci 0 2.17659e-12
id_0_0_0_9 nd_1_0_9000_2000 0 pwl(0 0.0 6.161e-01ns 0.0  6.661e-01ns 2.5e-01  6.795e-01ns 2.5e-01  7.295e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_9000_2000 nd_1_0_9000_2000_ci 5.79556
cd_0_0_0_9 nd_1_0_9000_2000_ci 0 2.60466e-11
id_0_0_0_10 nd_1_0_1000_3333 0 pwl(0 0.0 7.533e-01ns 0.0  8.033e-01ns 2.6e-02  9.045e-01ns 2.6e-02  9.545e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_1000_3333 nd_1_0_1000_3333_ci 22.953
cd_0_0_0_10 nd_1_0_1000_3333_ci 0 2.3566e-12
id_0_0_0_11 nd_1_0_3000_3333 0 pwl(0 0.0 4.346e-01ns 0.0  4.846e-01ns 3.8e-02  8.777e-01ns 3.8e-02  9.277e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_3000_3333 nd_1_0_3000_3333_ci 5.32561
cd_0_0_0_11 nd_1_0_3000_3333_ci 0 1.57193e-11
id_0_0_0_12 nd_1_0_5000_3333 0 pwl(0 0.0 5.717e-01ns 0.0  6.217e-01ns 1.6e-02  9.013e-01ns 1.6e-02  9.513e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_5000_3333 nd_1_0_5000_3333_ci 17.1999
cd_0_0_0_12 nd_1_0_5000_3333_ci 0 6.61123e-12
id_0_0_0_13 nd_1_0_7000_3333 0 pwl(0 0.0 2.547e-01ns 0.0  3.047e-01ns 7.3e-03  6.290e-01ns 7.3e-03  6.790e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_7000_3333 nd_1_0_7000_3333_ci 32.9211
cd_0_0_0_13 nd_1_0_7000_3333_ci 0 4.58636e-13
id_0_0_0_14 nd_1_0_9000_3333 0 pwl(0 0.0 7.133e-01ns 0.0  7.633e-01ns 1.0e-03  7.925e-01ns 1.0e-03  8.425e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_9000_3333 nd_1_0_9000_3333_ci 1086.82
cd_0_0_0_14 nd_1_0_9000_3333_ci 0 1.34266e-13
id_0_0_0_15 nd_1_0_1000_4666 0 pwl(0 0.0 4.026e-01ns 0.0  4.526e-01ns 1.1e-02  7.804e-01ns 1.1e-02  8.304e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_1000_4666 nd_1_0_1000_4666_ci 22.2754
cd_0_0_0_15 nd_1_0_1000_4666_ci 0 7.87823e-12
id_0_0_0_16 nd_1_0_3000_4666 0 pwl(0 0.0 5.346e-01ns 0.0  5.846e-01ns 3.0e-02  8.813e-01ns 3.0e-02  9.313e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3000_4666 nd_1_0_3000_4666_ci 8.55463
cd_0_0_0_16 nd_1_0_3000_4666_ci 0 1.23823e-11
id_0_0_0_17 nd_1_0_5000_4666 0 pwl(0 0.0 9.555e-02ns 0.0  1.455e-01ns 2.1e-02  9.193e-01ns 2.1e-02  9.693e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_5000_4666 nd_1_0_5000_4666_ci 5.29486
cd_0_0_0_17 nd_1_0_5000_4666_ci 0 6.77859e-12
id_0_0_0_18 nd_1_0_7000_4666 0 pwl(0 0.0 2.286e-01ns 0.0  2.786e-01ns 1.2e-01  3.529e-01ns 1.2e-01  4.029e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_7000_4666 nd_1_0_7000_4666_ci 6.23617
cd_0_0_0_18 nd_1_0_7000_4666_ci 0 2.4485e-11
id_0_0_0_19 nd_1_0_9000_4666 0 pwl(0 0.0 3.031e-01ns 0.0  3.531e-01ns 5.6e-02  4.696e-01ns 5.6e-02  5.196e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_9000_4666 nd_1_0_9000_4666_ci 9.67417
cd_0_0_0_19 nd_1_0_9000_4666_ci 0 1.59096e-11
id_0_0_0_20 nd_1_0_1000_6000 0 pwl(0 0.0 8.877e-01ns 0.0  9.377e-01ns 2.6e-01  9.481e-01ns 2.6e-01  9.981e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_1000_6000 nd_1_0_1000_6000_ci 5.6906
cd_0_0_0_20 nd_1_0_1000_6000_ci 0 1.49898e-11
id_0_0_0_21 nd_1_0_3000_6000 0 pwl(0 0.0 1.254e-01ns 0.0  1.754e-01ns 5.0e-03  9.499e-01ns 5.0e-03  9.999e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_3000_6000 nd_1_0_3000_6000_ci 22.0239
cd_0_0_0_21 nd_1_0_3000_6000_ci 0 5.2083e-12
id_0_0_0_22 nd_1_0_5000_6000 0 pwl(0 0.0 2.614e-01ns 0.0  3.114e-01ns 4.6e-03  6.332e-01ns 4.6e-03  6.832e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_5000_6000 nd_1_0_5000_6000_ci 52.9309
cd_0_0_0_22 nd_1_0_5000_6000_ci 0 2.73328e-12
id_0_0_0_23 nd_1_0_7000_6000 0 pwl(0 0.0 2.661e-01ns 0.0  3.161e-01ns 1.2e-02  7.323e-01ns 1.2e-02  7.823e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_7000_6000 nd_1_0_7000_6000_ci 16.0647
cd_0_0_0_23 nd_1_0_7000_6000_ci 0 4.6081e-12
id_0_0_0_24 nd_1_0_9000_6000 0 pwl(0 0.0 8.558e-01ns 0.0  9.058e-01ns 1.9e-01  9.194e-01ns 1.9e-01  9.694e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_9000_6000 nd_1_0_9000_6000_ci 7.48029
cd_0_0_0_24 nd_1_0_9000_6000_ci 0 1.39852e-11
id_0_0_0_25 nd_1_0_1000_7333 0 pwl(0 0.0 5.374e-01ns 0.0  5.874e-01ns 1.2e-03  9.334e-01ns 1.2e-03  9.834e-01ns 0.0)
rdesr_0_0_0_25 nd_1_0_1000_7333 nd_1_0_1000_7333_ci 182.514
cd_0_0_0_25 nd_1_0_1000_7333_ci 0 3.5236e-14
id_0_0_0_26 nd_1_0_3000_7333 0 pwl(0 0.0 2.249e-01ns 0.0  2.749e-01ns 9.6e-03  6.860e-01ns 9.6e-03  7.360e-01ns 0.0)
rdesr_0_0_0_26 nd_1_0_3000_7333 nd_1_0_3000_7333_ci 20.368
cd_0_0_0_26 nd_1_0_3000_7333_ci 0 1.82471e-12
id_0_0_0_27 nd_1_0_5000_7333 0 pwl(0 0.0 8.097e-01ns 0.0  8.597e-01ns 1.0e-01  9.152e-01ns 1.0e-01  9.652e-01ns 0.0)
rdesr_0_0_0_27 nd_1_0_5000_7333 nd_1_0_5000_7333_ci 8.30972
cd_0_0_0_27 nd_1_0_5000_7333_ci 0 8.0295e-12
id_0_0_0_28 nd_1_0_7000_7333 0 pwl(0 0.0 4.958e-01ns 0.0  5.458e-01ns 1.1e-01  6.540e-01ns 1.1e-01  7.040e-01ns 0.0)
rdesr_0_0_0_28 nd_1_0_7000_7333 nd_1_0_7000_7333_ci 5.18785
cd_0_0_0_28 nd_1_0_7000_7333_ci 0 1.86022e-11
id_0_0_0_29 nd_1_0_9000_7333 0 pwl(0 0.0 5.269e-02ns 0.0  1.027e-01ns 3.6e-02  4.588e-01ns 3.6e-02  5.088e-01ns 0.0)
rdesr_0_0_0_29 nd_1_0_9000_7333 nd_1_0_9000_7333_ci 6.07807
cd_0_0_0_29 nd_1_0_9000_7333_ci 0 4.34497e-12
id_0_0_0_30 nd_1_0_1000_8666 0 pwl(0 0.0 6.338e-01ns 0.0  6.838e-01ns 2.9e-03  8.341e-01ns 2.9e-03  8.841e-01ns 0.0)
rdesr_0_0_0_30 nd_1_0_1000_8666 nd_1_0_1000_8666_ci 155.17
cd_0_0_0_30 nd_1_0_1000_8666_ci 0 1.7966e-13
id_0_0_0_31 nd_1_0_3000_8666 0 pwl(0 0.0 3.222e-01ns 0.0  3.722e-01ns 3.5e-02  7.873e-01ns 3.5e-02  8.373e-01ns 0.0)
rdesr_0_0_0_31 nd_1_0_3000_8666 nd_1_0_3000_8666_ci 5.58765
cd_0_0_0_31 nd_1_0_3000_8666_ci 0 2.84496e-11
id_0_0_0_32 nd_1_0_5000_8666 0 pwl(0 0.0 4.557e-01ns 0.0  5.057e-01ns 6.4e-02  6.675e-01ns 6.4e-02  7.175e-01ns 0.0)
rdesr_0_0_0_32 nd_1_0_5000_8666 nd_1_0_5000_8666_ci 6.6133
cd_0_0_0_32 nd_1_0_5000_8666_ci 0 2.84034e-11
id_0_0_0_33 nd_1_0_7000_8666 0 pwl(0 0.0 5.930e-01ns 0.0  6.430e-01ns 9.2e-03  8.009e-01ns 9.2e-03  8.509e-01ns 0.0)
rdesr_0_0_0_33 nd_1_0_7000_8666 nd_1_0_7000_8666_ci 47.0106
cd_0_0_0_33 nd_1_0_7000_8666_ci 0 2.51691e-12
id_0_0_0_34 nd_1_0_9000_8666 0 pwl(0 0.0 7.268e-01ns 0.0  7.768e-01ns 7.5e-02  8.054e-01ns 7.5e-02  8.554e-01ns 0.0)
rdesr_0_0_0_34 nd_1_0_9000_8666 nd_1_0_9000_8666_ci 15.3341
cd_0_0_0_34 nd_1_0_9000_8666_ci 0 3.18391e-12

*-- intentional decap
cd_add_cap0 nd_1_0_3000_2000 nd0 'dcap_int_val128'
cd_add_cap1 nd_1_0_7000_2000 nd1 'dcap_int_val129'
cd_add_cap2 nd_1_0_3000_4666 nd2 'dcap_int_val130'
cd_add_cap3 nd_1_0_7000_4666 nd3 'dcap_int_val131'
cd_add_cap4 nd_1_0_3000_7333 nd4 'dcap_int_val132'
cd_add_cap5 nd_1_0_7000_7333 nd5 'dcap_int_val133'
rd_add0 nd0 0 'esr7'
rd_add1 nd1 0 'esr8'
rd_add2 nd2 0 'esr9'
rd_add3 nd3 0 'esr10'
rd_add4 nd4 0 'esr11'
rd_add5 nd5 0 'esr12'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3333  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_6000  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_1000_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_2000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_4666  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3000_7333  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3333  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_6000  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_5000_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_2000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_4666  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_7000_7333  0.001

.ends chiplet2
